US07220744B2
Rac-2-sec-Butoxy-5-methanesulfonyl-benzoic acid
Prepared in analogy to Example A1 (b) from 2-chloro-5-methanesulfonyl-benzoic acid (Example A1(a)) and rac-butan-2-ol. The crude material was purified by preparative HPLC to yield the title compound as a white solid. MS (m/e): 271.4 ([M−H]−, 100%).

reactant | 2-chloro-5-methanesulfonyl-benzoic acid | ClC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)C | C8H7ClO4S
reactant | rac-butan-2-ol | CC(CC)O | C4H10O
product | Rac-2-sec-Butoxy-5-methanesulfonyl-benzoic acid | C(C)(CC)OC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)C | C12H16O5S
